US09287504B2
3,7-Bis-(4-bromo-phenyl)-4,8-dioctyl-benzo[1,2-b;4,5-b′]difuran-2,6-dione (3.1)
In a 100 cm3 flask fitted with a condenser and a reverse Dean-Stark apparatus, (4-bromo-phenyl)-hydroxy-acetic acid (6.043 g, 26.16 mmol) and 2,5-dioctyl-benzene-1,4-diol (Bao, Z.; Chan, W. K.; Yu, L. J. Am. Chem. Soc. 1995, 117, 12426-12435.) (3.500 g, 10.46 mmol) are dissolved in 1,2-dichlorochlorobenzene (35 cm3). The reaction mixture is heated to 200° C. and the generated water is distilled off the using a reverse Dean-Stark apparatus. After 2 hours stirring, the reaction mixture is cooled down and the solvent was removed in vacuo. (9.501 g, Crude yield: 125%). The crude 3,7-bis-(4-bromo-phenyl)-4,8-dioctyl-3,7-dihydro-benzo[1,2-b;4,5-b′]difuran-2,6-dione (7.500 g, 10.35 mmol) is dissolved into acetic acid (125 cm3) at 50° C. before adding chloranil (5.090 g, 20.70 mmol). After 16 hours stirring, the reaction mixture is cooled down and the resulting precipitate is filtered. The recovered solid is purified by column chromatography (95:5, petroleum ether (40-60):Ethyl acetate as eluant) to obtain a crystalline orange solid (0.642 g, Yield: 9%). NMR (1H, 300 MHz, CDCl3): δ 7.63 (d, J=8.5 Hz, 4H); 7.30 (d, J=8.5 Hz, 4H); 2.46 (m, 4H); 1.19 (m, 16H); 0.98 (m, 8H); 0.88 (t, J=7.1 Hz, 6H)

reactant | (4-bromo-phenyl)-hydroxy-acetic acid | 26.16 mmol, 6.043 g | BrC1=CC=C(C=C1)C(C(=O)O)O | C8H7BrO3
reactant | 2,5-dioctyl-benzene-1,4-diol | 10.46 mmol, 3.500 g | C(CCCCCCC)C1=C(C=C(C(=C1)O)CCCCCCCC)O | C22H38O2
reactant | 3,7-bis-(4-bromo-phenyl)-4,8-dioctyl-3,7-dihydro-benzo[1,2-b;4,5-b′]difuran-2,6-dione | 10.35 mmol, 7.500 g | BrC1=CC=C(C=C1)C1C=2C(OC1=O)=C(C1=C(OC(C1C1=CC=C(C=C1)Br)=O)C2CCCCCCCC)CCCCCCCC | C38H44Br2O4
reactant | chloranil | 20.70 mmol, 5.090 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | 1,2-dichlorochlorobenzene | 35 cm3 | ClC1=C(C(=CC=C1)Cl)Cl | C6H3Cl3
solvent | acetic acid | 125 cm3 | C(C)(=O)O | C2H4O2
product | 3,7-Bis-(4-bromo-phenyl)-4,8-dioctyl-benzo[1,2-b;4,5-b′]difuran-2,6-dione | 0.642 g, Yield: 9% | BrC1=CC=C(C=C1)C1=C2C(OC1=O)=C(C=1C(OC(C1C1=CC=C(C=C1)Br)=O)=C2CCCCCCCC)CCCCCCCC | C38H42Br2O4
